.SUBCKT LTC2050 1 2 3 4 5 8
*
* input stage
GSW1 2 119 POLY(2) 812 99 2 119 0 0 1e-12 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
GSW2 1 119 POLY(2) 813 99 1 119 0 0 1e-12 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
RGSW1 2 119 1.0000e+010
RGSW2 1 119 1.0000e+012
CIN 1 119 1.0753e-011
GRIN 1 119 1 119 8.3195e-012
M1 11 119 10 10 M1 L=100U W=100U
M2 12 111 10 10 M2 L=100U W=100U
RD1 3 11 ROVD1 5.0000e+003
RD2 3 12 ROVD2 5.0000e+003
DI1 111 3 DI1
DI2 119 3 DI2
C1 11 12 4.6810e-012
IEE 10 4 DC 4.0000e-004
GSHDN 10 4 813 99 8.0808e-005
GA 60 99 11 12 2.0000e-004
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 119 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.9894e+001
ECM 111 1 20 99 3.1623e-007
*
* frequency shaper
RR1 6 60 1.0000e-003
*
* output stage
R2 6 99 4.4600e+006
C2 6 7 2.0000e-010
GB 7 99 6 99 5.9475e+002
R01 7 99 1.0000e+000
R02 7 50 1.0000e-001
R03 50 51 1.8526e+001
GSW3 51 5 POLY(2) 812 99 51 5 0 0 1e-9 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56e-6
RGSW3 51 5 1.0000e+010
R04 5 99 5.9379e+009
*
VC 53 50 DC 1.00e-001
DVCP 53 3 DVC
VE 54 50 DC -8.92e-002
DVCN 4 54 DVC
*
ECLP 91 0 7 50 8.3333e+002
ECLN 92 0 7 50 8.3333e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 2.0334e+004
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
GIP 3 4 POLY(1) 99 812 1.2723e-005 7.8000e-005
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DVC
DP2 33 4 DVC
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.08 1.0
*
* shutdown stage
RDIS1 99 8 5.0000e+006
RDIS2 8 808 1.0000e+002
CDIS1 808 99 3.0000e-012
GREF 4 801 3 4 3.0000e-004
RREF 801 4 1.0000e+003
GDIS 99 803 808 801 -1.0000e-002
RDIS3 803 99 1.0000e+004
VDIS2 804 99 DC -8.0000e-002
VDIS3 805 99 DC -4.9210e+000
DDIS2 803 804 DVC
DDIS3 805 803 DVC
EDIS 810 99 803 99 1.0000e+000
RDIS5 810 812 2.7152e+003
RDIS6 812 811 1.6946e+003
DDIS4 810 811 DVC
CDIS3 812 99 1.0000e-008
EDIS2 813 99 POLY(1) 812 99 -5.0 -1.0
RDIS7 813 99 1.0000e+006
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1)
.MODEL M1 NMOS (LEVEL=3 KP=3.5531e-002 VTO=1.000000e+000 KF=4.2237e-025)
.MODEL M2 NMOS (LEVEL=3 KP=3.5531e-002 VTO=9.999993e-001 KF=4.2237e-025)
.MODEL ROVD1 RES (TC1=-2.8274e-007)
.MODEL ROVD2 RES (TC1=2.8274e-007)
.MODEL DI1 D (IS=1.0500e-010 EG=1.0592e-001 XTI=3.0000e+000)
.MODEL DI2 D (IS=3.5000e-011 EG=1.0592e-001 XTI=3.0000e+000)
.ENDS LTC2050
