.SUBCKT LTC1050A   3 2 7 4 6 
* INPUT
IB1 2 7 -10P
IB2 3 7 10P
RD1 4 80 2.1221E+03
RD2 4 90 2.1221E+03
M1 80 2 12 12 PM1 
M2 90 3 12 12 PM2 
CIN 2 3 5.0000E-12
DG1 2 7 DMG1
DG2 3 7 DMG2
C1 80 90 1.5000E-11
ISS 7 12 1.2000E-04
CS 12 0 1.2857E-11
* INTERMEDIATE 
GCM 0 8 12 0 4.7124E-11
GA 8 0 80 90 4.7124E-04
R2 8 0 1.0000E+05
C2 1 8 3.0000E-11
GB 1 0 8 0 1.0664E+04
RO2 1 0 1.9900E+02
* OUTPUT 
RSO 1 6 1.0000E+00
ECL 18 0 1 6 1.7955E+02
GCL 0 8 20 0 1.0000E+00
RCL 20 0 1.0000E+01
D1 18 19 DM1 
VOD1 19 20 0.0000E+00
D2 20 21 DM1 
VOD2 21 18 2.6932E+00
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0 8 70 7 1.0000E+00
VC 13 6 1.4332E+00
RPLA 7 70 1.0000E+01
RPLB 7 131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14 DM3 
GNL 0 8 60 4 1.0000E+00
VE 6 14 1.4332E+00
RNLA 60 4 1.0000E+01
RNLB 141 4 1.0000E+03
* 
IP 7 4 8.8000E-04
DSUB 4 7 DM2 
* MODELS 
.MODEL PM1 PMOS (KP=1.8506E-03 VTO=-1.1000000E+00)
.MODEL PM2 PMOS (KP=1.8506E-03 VTO=-1.1000005E+00)
.MODEL DM1 D (IS=1.0000E-20)
.MODEL DM2 D (IS=8.0000E-16 BV=1.9800E+01)
.MODEL DM3 D (IS=1.0000E-16)
.MODEL DMG1 D (IS=7E-12 N=2.31)
.MODEL DMG2 D (IS=6.3E-12 N=2.31)
.ENDS LTC1050A
