.SUBCKT LTC1541_OP 1 2 3 4 5
*
* input stage
CIN 1 2 3.8021e-012
GRIN 1 2 1 2 1.0000e-010
M1 11 2 10 10 M1 L=100U W=100U
M2 12 111 10 10 M2 L=100U W=100U
RD1 4 11 1.6000e+006 TC=2.0469e-005
RD2 4 12 1.6000e+006 TC=-2.0469e-005
DI1 111 3 DI1
DI2 2 3 DI2
C1 11 12 3.1085e-012
IEE 3 10 DC 1.2500e-006
GA 60 99 11 12 6.2500e-007
*
* common mode rejection
GCM1 99 20 POLY(2) 1 99 2 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 5.3052e-001
ECM 111 1 20 99 3.1623e-006
*
* frequency shaper
RR1 6 60 1.0000e-003
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 1.5625e-010
GB 7 99 6 99 3.9216e+005
R01 7 99 9.9900e+001
R02 7 50 1.0000e-001
R03 50 5 5.0000e+002
R04 5 99 5.9379e+009
VC 53 50 DC 9.5737e-001
VE 54 50 DC -9.3738e-001
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 5.5556e+003
ECLN 92 0 7 50 5.5556e+003
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 9.3945e+000
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 1.2500e-006
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL M1 PMOS (LEVEL=3 KP=1.3093e-004 VTO=-9.996500e-001 KF=1.2612e-044)
.MODEL M2 PMOS (LEVEL=3 KP=1.3093e-004 VTO=-1.000350e+000 KF=1.2612e-044)
.MODEL DI1 D (IS=1.4726e-011 EG=8.3479e-001 XTI=3.0000e+000)
.MODEL DI2 D (IS=1.0997e-011 EG=8.7734e-001 XTI=3.0000e+000)
.MODEL DRI D (IS=8.2592e-016 KF=1.5623e-017 RS=0 XTI=0)
*
.ENDS LTC1541_OP
