.SUBCKT LTC1541_REF 420 200 300
*
* reference
IREF1 300 400 1.0E-3
RREF1 400 300 1.0E3 
IREF2 300 401 1.0E-3
RREF2 401 300 1.0E3 TC=-1.5E-5
GREF 300 410 POLY(2) 400 300 400 401 1.2E-3 0 0 0 0 -1.0
RREF3 410 300 1.0E3
CREF 410 300 1.0E-11
*
* transient characteristic
CTRAN1 200 404 1.0E-9
RTRAN1 404 300 1.0E6
GTRAN1 405 300 POLY(1) 404 300 0 0 1.0E-4
RTRAN2 405 300 1.0E3
CTRAN2 405 300 3.0E-7
GTRAN2 410 300 405 300 -2.5E-6
*
DVCP 410 409 DY
EVCP 409 300 POLY(1) 200 300 -0.725 0.7
DVCN 408 410 DY
VVCN 408 300 DC 0.908
*
* output stage
EOUT 411 300 410 300 1.0
ROUT1 411 412 1.0
VSENS 412 420 DC 0
ROUT2 420 300 1.0E9
*
* !!! required for correct initial solution due to 
* !!! negative resistance characteristic of output
.NODESET V(412)=1.2
*
* sourcing characteristic
FBGR1 300 421 VSENS 10
RBGR1 421 300 1.0E3
DBGR1 421 422 DY
RBGR2 422 300 1.0E4
DBGR2 421 423 DY
VBGR1 423 424 DC 23
RBGR3 424 300 1.0E4
*
* sinking characteristic
FBGR2 300 431 VSENS -360
RBGR4 431 300 1.0E3
DBGR3 431 432 DY
RBGR5 432 300  1.0E4
DBGR4 431 433 DY
VBGR2 433 434 DC 13.5
RBGR6 434 300 1.0E4
*
GDROP 410 300 POLY(2) 422 300 432 300 0 -2.30E-7 2.18E-7
GLIM  410 300 POLY(2) 424 300 434 300 0 0 0 -1.0E-3 0 1.0E-4
*
.MODEL DY D IS=8.0000e-016 RS=0 XTI=0 
*
.ENDS LTC1541_REF
