.SUBCKT MD1010     1 3 4 5 6
* input stage
CIN 1 99 1.4139e-012
RIN 1 99 8.6124e+007
Q1 11 2 13 Q1
Q2 12 1 14 Q2
RC1 444 11 2.7359e+002
RC2 444 12 2.7359e+002
VCMIR 444 4 DC -1.0
RE1 10 13 9.1059e+001
RE2 10 14 9.1059e+001
C1 11 12 1.2437e-012
RFB 2 16 1.0000e+002
EFB 16 99 50 99 1.0030e+000
IEE 3 10 DC 7.4602e-003
*GSR 3 10 11 12 1.2286e-003
GSR 3 10 POLY(2) 11 12 121 0  0  0  0  0  1.2286e-003
D1 10 3 DX
GA 60 99 11 12 3.6551e-003
* bias and SR control
RBIAS1 6 3 1.0E12
VBIAS1 6 120 DC 0
IBIAS1 120 3 DC 6.05E-1
RBIAS2 3 120 1.33
FBIAS1 3 4 VBIAS1 1.0
FSR1 0 121 POLY(1) VBIAS1 1.0E-3  -26.5E-3
RSR1 121 0 1.0E3
FSR2   3  10  VBIAS1  7.37E-2
* noise voltage
GR 99 60 605 606 8.6534e+000
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
* output stage
R2 60 99 1.0000e+006
C2 60 99 6.2599e-011
DC 53 3 DX
DE 4 54 DX
VC 53 60 DC 8.6000e-001
VE 60 54 DC 1.7324e+000
GB 70 99 60 99 1.4286e-001
R01 70 99 7.0000e+000
R02 70 50 1.0000e-001
R03 50 5 7.5000e+000
R04 5 99 1.0000e+012
ELIM1 91 0 70 50 2.5906e+001
ELIM2 92 0 70 50 2.1823e+001
DLP 91 90 DX
DLN 90 92 DX
VLIM 90 0 DC 0
FB 70 99 VLIM 2.0655e+001
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
IP 3 4 DC -2.4602e-003
RP 3 4 1.5000e+005
GV 31 0 70 50 1.0000e+001
DP1 3 31 DX
DP2 32 4 DX
RGV 32 33 10.0
EGV 31 33 POLY(1) 3 4 -0.8 1.0
.MODEL Q1 PNP IS=3.7926e-015 BF=48.7 XTB=-1.3209e+000 XTI=5.50008e+000
.MODEL Q2 PNP IS=2.6367e-016 BF=48.7 XTB=-1.3209e+000 XTI=4.99918e-001
.MODEL DX D IS=8.0000e-016 RS=0 XTI=0
.MODEL DR D IS=8.0000e-016 KF=8.0939e-017 RS=0 XTI=0
.ENDS MD1010
